US07163947B2
A solution of N-(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)isopropylideneamine (18.4 g, 53.3 mmol) in 100 mL of methanol was placed under an atmosphere of nitrogen and cooled in an ice water bath. The solution was treated with sodium borohydride (2.32 g, 61.3 mmol) over 30 min. The reaction mixture was allowed to slowly come to ambient temperature. After 1.5 h, the reaction was quenched by the addition of 25 mL of saturated NH4Cl solution. The reaction mixture was concentrated under reduced pressure to remove the methanol. The residue was partitioned between chloroform (150 mL) and 10% Na2CO3 solution (35 mL), and the phases were separated. The organic portion was washed with another portion of 10% Na2CO3 solution (35 mL), water (35 mL) and brine (35 mL). The organic portion was dried over Na2SO4, filtered and concentrated under reduced pressure to yield a brown foam. The foam was purified by chromatography (SiO2, 97:3 CHCl3:MeOH gradient to 9:1) to give 16.3 g of N-(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine as a dark tan solid.

reactant | N-(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)isopropylideneamine | 53.3 mmol, 18.4 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3N=C(C)C)CCC | C16H17BrN4
reactant | sodium borohydride | 61.3 mmol, 2.32 g | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | N-(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine | 16.3 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3NC(C)C)CCC | C16H19BrN4
